US06455528B1
(3) N-(1-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(4-fluorophenyl)piperazine dihydrochloride instead of phenylpiperazine and N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as white crystals.

reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
reactant | N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide | ClC(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C13H18ClNO
product | N-(1-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide | FC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C23H30FN3O
